US07888364B2
75 mg of 3-chloro-4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)benzoic acid was coupled to 1-(3-aminopropyl)imidazole via Procedure G. The product was purified on reverse phase HPLC to yield N4-(3-(1H-imidazol-1-yl)propyl)-2-chloro-N1-(4-chloro-3-(pyridin-2-yl)phenyl)terephthalamide. MS (Q1) 495 (M)+.

reactant | 3-chloro-4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)benzoic acid | 75 mg | ClC=1C=C(C(=O)O)C=CC1C(NC1=CC(=C(C=C1)Cl)C1=NC=CC=C1)=O | C19H12Cl2N2O3
reactant | 1-(3-aminopropyl)imidazole | NCCCN1C=NC=C1 | C6H11N3
product | N4-(3-(1H-imidazol-1-yl)propyl)-2-chloro-N1-(4-chloro-3-(pyridin-2-yl)phenyl)terephthalamide | N1(C=NC=C1)CCCNC(C1=CC(=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=C1)Cl)=O | C25H21Cl2N5O2
